US05538976
5-[N-(4-Nitrobenzyl)-N-(4-nitrophenyl)amino]pyrimidine
Starting compounds: 5-[(4-nitrophenyl)amino]pyrimidine and 4-nitrobenzyl bromide

reactant | 5-[(4-nitrophenyl)amino]pyrimidine | [N+](=O)([O-])C1=CC=C(C=C1)NC=1C=NC=NC1 | C10H8N4O2
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 5-[N-(4-Nitrobenzyl)-N-(4-nitrophenyl)amino]pyrimidine | [N+](=O)([O-])C1=CC=C(CN(C2=CC=C(C=C2)[N+](=O)[O-])C=2C=NC=NC2)C=C1 | C17H13N5O4
